US07906654B2
tert-butyl N-[1-[4-(2-cyanopropan-2-yl)phenyl]ethyl]carbamate
To a stirred solution of racemic 2-[4-(1-aminoethyl)phenyl]-2-methylpropanenitrile hydrochloride (1 g, 3.97 mmol) in THF (12 mL) is added Et3N (2.22 mL, 15.9 mmol). Di-tert-butyl dicarbonate (0.87 g, 3.97 mmol) in THF (2 mL) is added drop wise and the reaction mixture is stirred at room temperature 18 h. The resulting mixture is filtered on a silica gel pad and rinsed with a 1:1 solution of EtOAc and hexane. The filtrate is concentrated under reduced pressure and the crude product is left standing until it solidified. The latter is purified by recrystallization in 30 mL of hexane to provide the desired compound tert-butyl N-[1-[4-(2-cyanopropan-2-yl)phenyl]ethyl]carbamate (0.87 g, 68%) as a white solid. 1H NMR (300 MHz, CHLOROFORM-D): δ 7.44-7.41 (2H, m), 7.33-7.30 (2H, m), 4.80 (2H, s), 1.71 (6H, s), 1.44 (3H, s) 1.42 (9H, s).

reactant | racemic 2-[4-(1-aminoethyl)phenyl]-2-methylpropanenitrile hydrochloride | 3.97 mmol, 1 g | Cl.NC(C)C1=CC=C(C=C1)C(C#N)(C)C
reactant | Et3N | 15.9 mmol, 2.22 mL | CCN(CC)CC | C6H15N
reactant | Di-tert-butyl dicarbonate | 3.97 mmol, 0.87 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl N-[1-[4-(2-cyanopropan-2-yl)phenyl]ethyl]carbamate | 0.87 g, 68% | C(#N)C(C)(C)C1=CC=C(C=C1)C(C)NC(OC(C)(C)C)=O | C17H24N2O2
